US09399647B2
To a solution of ethyl 2-(4-(cyclopropyl(methyl)amino)-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-yl)acetate (1.0 gm, 0.00289 mol) in THF (9 ml) and water (1 ml) was added lithium hydroxide hydrate (0.24 gm, 0.00578 mol). The reaction mixture was stirred at room temperature for 16 h. After completion of the reaction, it was diluted with water. The aqueous layer was made acidic to pH 1 with 2N HCl and then extracted with ethyl acetate (25 ml×3). The combined organic extracts were dried over anhydrous Na2SO4, filtered and concentrated to get crude compound. It was purified by column chromatography by using 100-200 mesh silica gel and 2% MeOH: DCM as eluent to get 2-(4-(cyclopropyl(methyl)amino)-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-yl)acetic acid as an off white solid. Yield: (0.4 gm, 43.57%); 1H-NMR: (400 MHz, DMSO-d6); δ=12.46 (s, 1H), 3.70 (s, 2H), 2.99 (s, 3H), 2.96-2.91 (m, 1H), 2.90-2.87 (m, 2H), 2.83-2.80 (m, 2H), 1.88-1.84 (m, 2H), 1.71-1.66 (m, 2H), 0.78-0.65 (m, 2H), 0.43-0.31 (m, 2H); LC-MS [M+H]=317.9; HPLC purity=99.72%.

reactant | ethyl 2-(4-(cyclopropyl(methyl)amino)-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-yl)acetate | 0.00289 mol, 1.0 gm | C1(CC1)N(C=1C2=C(N=C(N1)CC(=O)OCC)SC1=C2CCCC1)C | C18H23N3O2S
reactant | lithium hydroxide hydrate | 0.00578 mol, 0.24 gm | O.[OH-].[Li+]
reactant | HCl | 2N | Cl | ClH
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 2-(4-(cyclopropyl(methyl)amino)-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-yl)acetic acid | C1(CC1)N(C=1C2=C(N=C(N1)CC(=O)O)SC1=C2CCCC1)C | C16H19N3O2S
